US04563464
6-Chloro-6-methoxycarbonyl-2-azabicyclo[2.2.2]octane hydrobromide
8.5 g. (0.03 moles) of 7-chloro-7-methoxycarbonyl-2-azabicyclo[2.2.2]oct-5-ene hydrobromide are dissolved in 85 ml. of methanol. 0.85 g. of a 10% palladium-on-charcoal catalyst are prehydrogenated in 15 ml. of methanol, and a clear solution of the starting material to be hydrogenated is added in a closed system. Hydrogenation is carried out in a closed system, the progress of the reaction is monitored by measuring the hydrogen consumption. When the calculated amount of hydrogen is used up, the reaction is terminated. When the reaction is not terminated timely, the reaction proceeds further and the chlorine is replaced by hydrogen. The catalyst is filtered off, the solution is evaporated. A crystalline material is obtained, which is triturated in about 20 ml. of acetone, and allowed to stand overnight in a refrigerator. The precipitate is filtered off on the next day, pulpified with two 5-ml. portions of cold acetone, and dried.

reactant | 7-chloro-7-methoxycarbonyl-2-azabicyclo[2.2.2]oct-5-ene hydrobromide | 0.03 moles | Br.ClC1(C2NCC(C=C2)C1)C(=O)OC
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 6-Chloro-6-methoxycarbonyl-2-azabicyclo[2.2.2]octane hydrobromide | Br.ClC1(CC2CNC1CC2)C(=O)OC | InChI=1S/C9H14ClNO2.BrH/c1-13-8(12)9(10)4-6-2-3-7(9)11-5-6;/h6-7,11H,2-5H2,1H3;1H
